US08106232B2
a. (S)-2-Cyclohexylmethyl-4-((2S,3S)-1,1-diethyl-7-hydroxy-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-butyric acid methyl ester
To a slurry of sodium (S)-4-cyclohexyl-1-hydroxy-3-methoxycarbonyl-butane-1-sulfonate (158 mg, 0.5 mmol) in 2-MeTHF (2 mL) was added 2N NaOH (0.22 mL, 0.44 mmol). The reaction mixture was stirred for 20 min at which time all of the solids had dissolved. (6S,7S)-7-Amino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalen-2-ol hydrochloride (100 mg, 0.35 mmol) was added and the mixture was stirred at RT for 30 min. Sodium triacetoxyborohydride (425 mg, 2.0 mmol) was added in 4 portions over 3 h. Thirty minutes after the last addition, EtOAc (15 mL) was added and the mixture was washed with 5% aqueous sodium carbonate (2×5 mL) and saturated sodium chloride (5 mL). The organic layer was dried with Na2SO4 and concentrated to give the title compound (159 mg). (m/z): [M+H]+ calcd for C27H43NO4, 446.33. Found, 446.6.

reactant | sodium (S)-4-cyclohexyl-1-hydroxy-3-methoxycarbonyl-butane-1-sulfonate | 0.5 mmol, 158 mg | C1(CCCCC1)CC(C[C@H](S(=O)(=O)[O-])O)C(=O)OC.[Na+]
reactant | NaOH | 0.44 mmol, 2N, 0.22 mL | [OH-].[Na+]
reactant | (6S,7S)-7-Amino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalen-2-ol hydrochloride | 0.35 mmol, 100 mg | Cl.N[C@@H]1[C@H](CC=2C=CC(=CC2C1(CC)CC)O)OC
reactant | Sodium triacetoxyborohydride | 2.0 mmol, 425 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 2-MeTHF | 2 mL | CC1CCCO1 | C5H10O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | (S)-2-Cyclohexylmethyl-4-((2S,3S)-1,1-diethyl-7-hydroxy-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-butyric acid methyl ester | 159 mg | COC([C@H](CCN[C@H]1C(C2=CC(=CC=C2C[C@@H]1OC)O)(CC)CC)CC1CCCCC1)=O | C27H43NO4
